US03971819
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (10 g), n-butanol (100 ml), and conc. sulphuric acid (2 ml) was refluxed for 4 hours, during which 50 ml of the solvent were distilled off slowly. After cooling, the n-butyl-4-chloro-3-nitro-5-sulphamyl-benzoate was isolated by filtration and recrystallized from n-butanol. The compound was obtained with a melting point of 140°-141°C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 10 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | n-butyl-4-chloro-3-nitro-5-sulphamyl-benzoate | C(CCC)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)Cl)[N+](=O)[O-])=O | C11H13ClN2O6S
